US07829585B2
6-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester
To an N,N-dimethylformamide (50 mL) solution of 2-fluoro-4-methoxybenzaldehyde (5.0 g, 32.5 mmol) and 2-mercapto-acetate (3.56 mL, 32.5 mmol) was added potassium carbonate (12.1 g, 87.5 mmol). This mixture was stirred at room temperature for 5 hours. The reaction mixture was distributed between ethyl acetate and water. The organic layer was separated followed by washing with water, drying over anhydrous magnesium sulfate and filtering. The filtrate was concentrated under a reduced pressure and the resulting residue was purified by silica gel chromatography (heptane:ethyl acetate=20:1 to 10:1) and NH silica gel chromatography (heptane:ethyl acetate=10:1) to obtain the title compound (6.72 g, 88%).

reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 2-fluoro-4-methoxybenzaldehyde | 32.5 mmol, 5.0 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | 2-mercapto-acetate | 32.5 mmol, 3.56 mL | SCC(=O)[O-]
reactant | potassium carbonate | 87.5 mmol, 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-Methoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 6.72 g, 88% | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)OC | C12H12O3S
